US04673692
12.4 g of 3,5-di-t-butyl-4-hydroxybenzophenone and 3.15 g of hydroxylamine hydrochloride were dissolved in 100 ml of ethanol, and with stirring, a solution of 2.77 g of potassium hydroxide in 20 ml of ethanol was added dropwise at room temperature. The mixture was then refluxed for 24 hours with stirring. After cooling, dichloromethane was added to the reaction mixture. The dichloromethane layer was separated, washed with water, and dried. The solvent was distilled off, and n-hexane was added to the residue. The precipitated crystals were collected by filtration, and recrystallized from ether/n-hexane to give 3,5-di-t-butyl-4-hydroxybenzophenone oxime.

reactant | 3,5-di-t-butyl-4-hydroxybenzophenone | 12.4 g | C(C)(C)(C)C=1C=C(C(=O)C2=CC=CC=C2)C=C(C1O)C(C)(C)C | C21H26O2
reactant | hydroxylamine hydrochloride | 3.15 g | Cl.NO
reactant | potassium hydroxide | 2.77 g | [OH-].[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3,5-di-t-butyl-4-hydroxybenzophenone oxime | C(C)(C)(C)C=1C=C(C(C2=CC=CC=C2)=NO)C=C(C1O)C(C)(C)C | C21H27NO2
